** sch_path: /home/shr25031/ihp-mpw-be/TO_Apr2025/PA_180GHz/xschem/PA_180GHz.sch
.subckt PA_180GHz VBB1 VBB2 RFIN VCC1B VCC2B VSS RFOUT VCC1A VCC2A
*.PININFO VBB1:B VBB2:B RFIN:I VCC1B:B VCC2B:B VSS:B RFOUT:O VCC1A:B VCC2A:B
XQnpn13G1 _net1 _net0 netq1 VSS npn13G2 le=900e-9 we=70.0n m=8
XQnpn13G2 _net1 _net0 netq1 VSS npn13G2 le=900e-9 we=70.0n m=8
XRrsil1 VBB1 _net0 VSS rsil w=2e-6 l=11e-6 m=1 b=0
XCcap_rfcmim1 RFIN _net0 VSS cap_rfcmim w=4.6e-6 l=4.2e-6 wfeed=3.0e-6
XRrppd2 _net1 VCC1B VSS rppd w=35e-6 l=0.5e-6 m=1 b=0
XCcap_rfcmim3 _net1 _net2 VSS cap_rfcmim w=6.6e-6 l=6.1e-6 wfeed=3.0e-6
XQnpn13G3 _net3 _net7 netq3 VSS npn13G2 le=900e-9 we=70.0n m=8
XQnpn13G4 _net3 _net7 netq3 VSS npn13G2 le=900e-9 we=70.0n m=8
XCcap_rfcmim4 _net2 _net7 VSS cap_rfcmim w=4.6e-6 l=4.5e-6 wfeed=3.0e-6
XRrsil2 VBB1 _net7 VSS rsil w=2e-6 l=11e-6 m=1 b=0
XRrppd1 _net3 VCC1B VSS rppd w=35e-6 l=0.5e-6 m=1 b=0
XQnpn13G5 _net6 _net5 netq6 VSS npn13G2 le=900e-9 we=70.0n m=10
XQnpn13G6 _net6 _net5 netq6 VSS npn13G2 le=900e-9 we=70.0n m=10
XCcap_rfcmim5 _net3 _net4 VSS cap_rfcmim w=6.6e-6 l=5.3e-6 wfeed=3.0e-6
XCcap_rfcmim6 _net4 _net5 VSS cap_rfcmim w=4.9e-6 l=4.3e-6 wfeed=3.0e-6
XRrppd3 _net6 VCC2B VSS rppd w=35e-6 l=0.5e-6 m=1 b=0
XRrsil3 VBB2 _net5 VSS rsil w=2e-6 l=12e-6 m=1 b=0
XCcap_rfcmim7 _net6 RFOUT VSS cap_rfcmim w=5.2e-6 l=4.8e-6 wfeed=3.0e-6
XQnpn13G7 _net9 _net8 netq9 VSS npn13G2 le=900e-9 we=70.0n m=8
XQnpn13G8 _net9 _net8 netq9 VSS npn13G2 le=900e-9 we=70.0n m=8
XRrsil7 VBB1 _net8 VSS rsil w=2e-6 l=11e-6 m=1 b=0
XCcap_rfcmim8 RFIN _net8 VSS cap_rfcmim w=4.6e-6 l=4.2e-6 wfeed=3.0e-6
XRrppd4 _net9 VCC1A VSS rppd w=35e-6 l=0.5e-6 m=1 b=0
XCcap_rfcmim9 _net9 _net10 VSS cap_rfcmim w=6.6e-6 l=6.1e-6 wfeed=3.0e-6
XQnpn13G9 _net11 _net15 netq11 VSS npn13G2 le=900e-9 we=70.0n m=8
XQnpn13G10 _net11 _net15 netq11 VSS npn13G2 le=900e-9 we=70.0n m=8
XCcap_rfcmim10 _net10 _net15 VSS cap_rfcmim w=4.6e-6 l=4.5e-6 wfeed=3.0e-6
XRrsil8 VBB1 _net15 VSS rsil w=2e-6 l=11e-6 m=1 b=0
XRrppd5 _net11 VCC1A VSS rppd w=35e-6 l=0.5e-6 m=1 b=0
XQnpn13G11 _net14 _net13 netq14 VSS npn13G2 le=900e-9 we=70.0n m=10
XQnpn13G12 _net14 _net13 netq14 VSS npn13G2 le=900e-9 we=70.0n m=10
XCcap_rfcmim11 _net11 _net12 VSS cap_rfcmim w=6.6e-6 l=5.3e-6 wfeed=3.0e-6
XCcap_rfcmim12 _net12 _net13 VSS cap_rfcmim w=4.9e-6 l=4.3e-6 wfeed=3.0e-6
XRrppd6 _net14 VCC2A VSS rppd w=35e-6 l=0.5e-6 m=1 b=0
XRrsil9 VBB2 _net13 VSS rsil w=2e-6 l=12e-6 m=1 b=0
XCcap_rfcmim13 _net14 RFOUT VSS cap_rfcmim w=5.2e-6 l=4.8e-6 wfeed=3.0e-6
XCcap_cmim1 VCC1A VSS cap_cmim w=10.5e-6 l=15.0e-6 m=1
XCcap_cmim2 VCC1A VSS cap_cmim w=10.5e-6 l=14.885e-6 m=1
XCcap_cmim3 VCC1A VSS cap_cmim w=10.5e-6 l=15.0e-6 m=1
XCcap_cmim4 VCC1A VSS cap_cmim w=10.5e-6 l=15.0e-6 m=1
XCcap_cmim5 VCC2A VSS cap_cmim w=10.5e-6 l=15.0e-6 m=1
XCcap_cmim6 VCC2A VSS cap_cmim w=10.5e-6 l=15.0e-6 m=1
XCcap_cmim7 VCC1B VSS cap_cmim w=10.5e-6 l=15.0e-6 m=1
XCcap_cmim8 VCC1B VSS cap_cmim w=10.5e-6 l=14.885e-6 m=1
XCcap_cmim9 VCC1B VSS cap_cmim w=10.5e-6 l=15.0e-6 m=1
XCcap_cmim10 VCC1B VSS cap_cmim w=10.5e-6 l=15.0e-6 m=1
XCcap_cmim11 VCC2B VSS cap_cmim w=10.5e-6 l=15.0e-6 m=1
XCcap_cmim12 VCC2B VSS cap_cmim w=10.5e-6 l=15.0e-6 m=1
XRrsil14 RFOUT RFOUT VSS rsil w=2.04e-6 l=28e-6 m=1 b=0
XRrsil13 RFIN RFIN VSS rsil w=2.04e-6 l=28e-6 m=1 b=0
RRFIN VSS RFIN res_topmetal2 w=15e-6 l=40.6e-6 m=2
RRFOUT VSS RFOUT res_topmetal2 w=15e-6 l=73.1e-6 m=2
RRM1 VSS netq1 res_topmetal2 w=15e-6 l=7.1e-6 m=1
RRM2 VSS netq3 res_topmetal2 w=15e-6 l=7.1e-6 m=1
RRM3 VSS netq6 res_topmetal2 w=15e-6 l=7.1e-6 m=1
RRM4 VSS _net2 res_topmetal2 w=15e-6 l=18.1e-6 m=1
RRM5 VSS _net4 res_topmetal2 w=15e-6 l=18.1e-6 m=1
RRM6 VSS netq9 res_topmetal2 w=15e-6 l=7.1e-6 m=1
RRM7 VSS netq11 res_topmetal2 w=15e-6 l=7.1e-6 m=1
RRM8 VSS netq14 res_topmetal2 w=15e-6 l=7.1e-6 m=1
RRM9 VSS _net10 res_topmetal2 w=15e-6 l=18.1e-6 m=1
RRM10 VSS _net12 res_topmetal2 w=15e-6 l=18.1e-6 m=1
.ends
